US05519040
Jones' reagent (0.63 mL, 1.69 mmol, 2.67M) was added dropwise to a 0° C. solution of 2-(1-hydroxy-1-cyclopropylmethyl)-5-thiazole sulfonamide (0.33 g, 1.4 mmol) in acetone (5 mL). The ice bath was removed and the solution stirred for 30 min. The reaction was quenched with a few drops of isopropanol and the acetone removed in vacuo. The residue was taken up in water and extracted with EtOAc. The combined extracts were dried (MgSO4), concentrated and purified by flash chromatography using 30% EtOAc/hexane to give 0.23 g (72%) of 2-(1-ketocyclopropyl)-5-thiazole sulfonamide as a white solid.

reactant | Jones' reagent | 1.69 mmol, 2.67M, 0.63 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-(1-hydroxy-1-cyclopropylmethyl)-5-thiazole sulfonamide | 1.4 mmol, 0.33 g | OC(C1CC1)C=1SC(=CN1)S(=O)(=O)N | C7H10N2O3S2
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-(1-ketocyclopropyl)-5-thiazole sulfonamide | 0.23 g, 72% | O=C1C(C1)C=1SC(=CN1)S(=O)(=O)N | C6H6N2O3S2
